US04110536
5-(Indol-3-ylmethyl)-3-[3-(4-phenyl-1-piperidyl)propyl]hydantoin
A mixture of 5-(indol-3-ylmethyl)hydantoin (6.4 g, 0.028 mole), 1-(3-chloropropyl)-4-phenylpiperidine (6.6 g, 0.028 mole) and 200 ml of DMF in 200 ml of anhydrous C2H5OH and 0.028 mole of NaOC2H5 was heated under reflux with stirring for 10 hours. The mixture was filtered and the filtrate was diluted with H2O. The solid was collected and twice recrystallized from aqueous C2H5OH, yield 2.0 g, mp 179°-80°.

reactant | 5-(indol-3-ylmethyl)hydantoin | 0.028 mole, 6.4 g | N1C=C(C2=CC=CC=C12)CC1C(NC(N1)=O)=O | C12H11N3O2
reactant | 1-(3-chloropropyl)-4-phenylpiperidine | 0.028 mole, 6.6 g | ClCCCN1CCC(CC1)C1=CC=CC=C1 | C14H20ClN
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
reactant | NaOC2H5 | 0.028 mole | CC[O-].[Na+]
solvent | C2H5OH | 200 ml | C(C)O | C2H6O
product | 5-(Indol-3-ylmethyl)-3-[3-(4-phenyl-1-piperidyl)propyl]hydantoin | N1C=C(C2=CC=CC=C12)CC1C(N(C(N1)=O)CCCN1CCC(CC1)C1=CC=CC=C1)=O | C26H30N4O2
